US07935725B2
(S,S)-{5-[4-(Benzothiazol-2-yloxy)-benzyl]-2,5-diaza-bicyclo[2.2.1]hept-2-yl}-acetic acid tert-butyl ester
To a stirred solution of (S,S)-2-[4-(2,5-diaza-bicyclo[2.2.1]hept-2-ylmethyl)-phenoxy]-benzothiazole hydrochloride (257 mg, 0.63 mmol) and bromoacetic acid tert-butyl ester (110 μL, 0.75 mmol) in CH3CN (4.0 mL) at rt was added Et3N (270 μL, 1.9 mmol). After 18 h at rt, the suspension was partitioned between CH2Cl2 (200 mL) and satd. aq. NaHCO3 (80 mL). The organic layer was separated, dried (Na2SO4), filtered and concentrated. Purification by silica gel flash chromatography (5% CH3OH in CH2Cl2) afforded the title compound as a viscous, colorless oil (218 mg, 77%). MS (ESI): mass calcd. for C25H29N3O3S, 451.19; m/z found, 452.2 [M+H]+. 1H NMR (500 MHz, CDCl3): 7.75 (d, J=7.7 Hz, 1H), 7.67 (d, J=7.7 Hz, 1H), 7.44 (d, J=8.6 Hz, 2H), 7.39 (m, 1H), 7.34-7.25 (m, 3H), 3.75 (m, 2H), 3.43 (br s, 1H), 3.33 (m, 3H), 2.88 (m, 2H), 2.82 (br d, J=10.0 Hz, 1H), 2.70 (dd, J=10.0, 2.2 Hz, 1H), 1.78 (s, 2H), 1.48 (s, 9H).

reactant | (S,S)-2-[4-(2,5-diaza-bicyclo[2.2.1]hept-2-ylmethyl)-phenoxy]-benzothiazole hydrochloride | 0.63 mmol, 257 mg | Cl.[C@@H]12N(C[C@@H](NC1)C2)CC2=CC=C(OC=1SC3=C(N1)C=CC=C3)C=C2
reactant | bromoacetic acid tert-butyl ester | 0.75 mmol, 110 μL | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
reactant | Et3N | 1.9 mmol, 270 μL | CCN(CC)CC | C6H15N
solvent | CH3CN | 4.0 mL | CC#N | C2H3N
product | (S,S)-{5-[4-(Benzothiazol-2-yloxy)-benzyl]-2,5-diaza-bicyclo[2.2.1]hept-2-yl}-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1[C@@H]2CN([C@H](C1)C2)CC2=CC=C(C=C2)OC=2SC1=C(N2)C=CC=C1)=O | C25H29N3O3S
